US04880812
A slurry of Silica Gel 60 (6.0 g, Merck μ7734, 70-230 mesh) and aqueous oxalic acid (10%) (0.6 ml) in dichlormethane (12 ml) was stirred for 15 minutes. 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetate (1.0 g, 2.7 mmol) was added and the mxiture was stirred for 18 hours. Sodium bicarbonate (0.2 g, 2.4 mmol) was added and after 10 minutes the slurry was filtered and washed with ethyl acetate. The filtrates and wash were combined and spin evaporated in vacuo to give 0.37 g (46% of theory) of 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde. The analytical sample was prepared by recrystallization from acetone to give 0.21 g (26% of theory), mp 169°-170° C.)

reactant | oxalic acid | 0.6 ml | C(C(=O)O)(=O)O | C2H2O4
reactant | 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde diethyl acetate | 2.7 mmol, 1.0 g | C(C)C(C(=O)O)CC.C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CC=O)=O
reactant | Sodium bicarbonate | 2.4 mmol, 0.2 g | C([O-])(O)=O.[Na+]
solvent | dichlormethane | 12 ml | ClCCl | CH2Cl2
product | 2-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)acetaldehyde | 0.37 g, 46% | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CC=O)=O | C12H14N4O5
